US04223136
A mixture of 24 parts of 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile, 14 parts of iodomethane and 14 parts of potassium carbonate is stirred at room temperature for 21/4 hours, then diluted with 2 volumes of water. The precipitate which forms is filtered out, dried in vacuo, and recrystallized from acetonitrile to give yellow needles of 2,3-dihydro-2-methyl-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile melting at 292°-295° with decomposition.

reactant | 2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | O=C1C(=C2C(SC3=C(N2)C=CC=C3)=CN1)C#N | C12H7N3OS
reactant | iodomethane | IC | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2,3-dihydro-2-methyl-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | CN1C=C2SC3=C(NC2=C(C1=O)C#N)C=CC=C3 | C13H9N3OS
